US04904671
(d) 4-(2-Methylimidazo[4,5-c]pyrid-1-yl)butanol
1-(4-Acetoxybutyl)-2-methylimidazo[4,5-c]pyridine (0.55 g) was dissolved in ethanol (10 ml) and 2M potassium hydroxide (2 ml) was added dropwise. The mixture was stirred at room temperature for 3 hours and then evaporated under vacuum. The residue was dissolved in 2M hydrochloric acid, washed with methylene chloride (2×20 ml), basified with solid NaHCO3 to pH 7.5 and then extracted with methylene chloride (10×20 ml). The combined organic extracts were evaporated under vacuum to leave the desired product as a brown oil (0.5 g).

reactant | 1-(4-Acetoxybutyl)-2-methylimidazo[4,5-c]pyridine | 0.55 g | C(C)(=O)OCCCCN1C(=NC=2C=NC=CC21)C | C13H17N3O2
reactant | potassium hydroxide | 2M, 2 ml | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(2-Methylimidazo[4,5-c]pyrid-1-yl)butanol | 0.5 g | CC=1N(C2=C(C=NC=C2)N1)CCCCO | C11H15N3O
